US05112863
D-alanine 1.78 g (0.02 mol) and triethylamine 2.8 ml (0.02 mol) were dissolved in 60 ml of water. Myristate of 4-hydroxyphenyldimethylsulfomethyl sulfate 9.52 g (0.02 mol) was added to the solution, and the mixture was stirred for 12 hours at room temperature. The solution reacted was adjusted to pH 2 or 3 with 1N-HCl and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate, and freed of solvent in vacuo. The oily residue obtained was purified by column chromatography (column: 2.5×15 cm) on 50 g of silica gel and N-myristoyl-D-alanine 3.6 g was obtained.

reactant | D-alanine | 0.02 mol, 1.78 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | triethylamine | 0.02 mol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | Myristate | C(CCCCCCCCCCCCC)(=O)[O-]
reactant | 4-hydroxyphenyldimethylsulfomethyl sulfate | 0.02 mol, 9.52 g | S(=O)(=O)(OC(S(=O)(=O)OC1=CC=C(C=C1)O)(C)C)[O-]
reactant | HCl | Cl | ClH
solvent | water | 60 ml | O | H2O
product | N-myristoyl-D-alanine | 3.6 g | C(CCCCCCCCCCCCC)(=O)N[C@H](C)C(=O)O | C17H33NO3
